US09359341B2
Preparation of N-({(5S)-2-oxo-3-[4-(3-oxomorpholin-4-yl)phenyl]-1,3-oxazolidin-5-yl}methyl)formamide (Aldehyde of Primary Amine)
In a four neck round bottom flask charged with 4-{4-[(5S)-5-(aminomethyl)-2-oxo-1,3-oxazolidin-3-yl]phenyl}morpholin-3-one free base (50 g) toluene (350 ml) and formic acid (21.63 g). Reaction mass then heated azeotropically to 110-120° C. employing dean-stark apparatus for 3 to 4 h. (water removed azeotropically) Reaction mass is cooled to 25 to 30° C. Obtained solid is filtered off and washed by toluene.

reactant | 4-{4-[(5S)-5-(aminomethyl)-2-oxo-1,3-oxazolidin-3-yl]phenyl}morpholin-3-one | 350 ml, 50 g | NC[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)N1C(COCC1)=O | C14H17N3O4
reactant | formic acid | 21.63 g | C(=O)O | CH2O2
solvent | water | O | H2O
product | N-({(5S)-2-oxo-3-[4-(3-oxomorpholin-4-yl)phenyl]-1,3-oxazolidin-5-yl}methyl)formamide | O=C1O[C@H](CN1C1=CC=C(C=C1)N1C(COCC1)=O)CNC=O | C15H17N3O5
